US06326369B1
Ethyl 8-(2-ethoxycarbonyl-4,5,6,7-tetramethoxyindan-2-yl)octanoate
To ethyl 8-(2-ethoxycarbonyl-1-hydroxy-4,5,6,7-tetramethoxyindan-2-yl)octanoate (3.77 g, 7.59 mmols), added was trifluoroacetic acid (40 ml) at room temperature, and then triethylsilane (4.85 ml, 30.4 mmols) was added thereto, and stirred for 15 minutes. The reaction mixture was concentrated in vacuo, a saturated aqueous sodium bicarbonate solution was added thereto, and extracted with ethyl acetate, and the resulting organic layer was washed with water and a saturated aqueous sodium chloride solution, and then dried. The solvent was evaporated out in vacuo, and the resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate=20:1 to 10:1) to obtain the entitled compound (1.31 g) as an oil.

reactant | ethyl 8-(2-ethoxycarbonyl-1-hydroxy-4,5,6,7-tetramethoxyindan-2-yl)octanoate | 7.59 mmols, 3.77 g | C(C)OC(=O)C1(C(C2=C(C(=C(C(=C2C1)OC)OC)OC)OC)O)CCCCCCCC(=O)OCC | C26H40O9
reactant | triethylsilane | 30.4 mmols, 4.85 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Ethyl 8-(2-ethoxycarbonyl-4,5,6,7-tetramethoxyindan-2-yl)octanoate | 1.31 g | C(C)OC(=O)C1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)CCCCCCCC(=O)OCC | C26H40O8
